US08476300B2
6-hydroxy-1-(4-(2-(piperidin-1-yl)ethoxy)phenoxy)naphthalen-2-ylboronic acid hydrochloride
Add bis(neopentyl glycolato)diboron (4.2 g, 18.59 mmol), 5-(4-(2-(piperidin-1-yl)ethoxy)phenoxy)-6-(trifluoromethylsulfonyloxy)naphthalen-2-yl acetate (2.33 g, 4.21 mmol), palladium (II) acetate (0.199 g, 886.38 μmol), cesium fluoride (5.21 g, 34.30 mmol), tricyclohexylphosphine (0.41 g, 1.40 mmol) and acetonitrile (50 mL) to a round bottom flask. Reflux the mixture with stirring for 1 hour under a nitrogen atmosphere. Cool the mixture, filter and wash the solids with acetonitrile. Concentrate the combined filtrate and washes. Suspend the resulting residue in diethyl ether (40 mL) and sonicated for 30 minutes. Remove the precipitate by filtration and concentrate the filtrate to obtain the crude intermediate. Add diethanolamine (405.25 μL, 4.21 mmol) to a solution of the crude intermediate in ether (50 mL). Stir the mixture for 1 hour. Decant the organic layer and dissolve the remaining residue in methanol (20 mL) and 10 mL of water. Add concentrated HCl (2 mL; 24 mmol) and stir the resulting mixture for 16 hours. Concentrate the mixture to remove MeOH. Extract the aqueous residue 3 times with dichloromethane. Combine the extracts, dry over sodium sulfate, filter, and concentrate to dryness. Purify the residue by flash chromatography on silica to obtain the title compound. (0.6 g, 1.47 mmol).

reactant | bis(neopentyl glycolato)diboron | 18.59 mmol, 4.2 g | B1(OCC(CO1)(C)C)B2OCC(CO2)(C)C | C10H20B2O4
reactant | 5-(4-(2-(piperidin-1-yl)ethoxy)phenoxy)-6-(trifluoromethylsulfonyloxy)naphthalen-2-yl acetate | 4.21 mmol, 2.33 g | C(C)(=O)OC1=CC2=CC=C(C(=C2C=C1)OC1=CC=C(C=C1)OCCN1CCCCC1)OS(=O)(=O)C(F)(F)F | C26H26F3NO7S
reactant | cesium fluoride | 34.30 mmol, 5.21 g | [F-].[Cs+]
reactant | tricyclohexylphosphine | 1.40 mmol, 0.41 g | C1(CCCCC1)P(C1CCCCC1)C1CCCCC1 | C18H33P
reactant | diethanolamine | 4.21 mmol, 405.25 μL | N(CCO)CCO | C4H11NO2
reactant | HCl | 24 mmol, 2 mL | Cl | ClH
solvent | ether | 50 mL | CCOCC | C4H10O
catalyst | palladium (II) acetate | 886.38 μmol, 0.199 g | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | acetonitrile | 50 mL | C(C)#N | C2H3N
product | 6-hydroxy-1-(4-(2-(piperidin-1-yl)ethoxy)phenoxy)naphthalen-2-ylboronic acid hydrochloride | Cl.OC=1C=C2C=CC(=C(C2=CC1)OC1=CC=C(C=C1)OCCN1CCCCC1)B(O)O | InChI=1S/C23H26BNO5.ClH/c26-18-5-10-21-17(16-18)4-11-22(24(27)28)23(21)30-20-8-6-19(7-9-20)29-15-14-25-12-2-1-3-13-25;/h4-11,16,26-28H,1-3,12-15H2;1H
